US07132504B2
Preparation of 1-{[1-(2-Methoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester
To a solution of 1-{[4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester (600 mg, 1.115 mmol) in CH3CN (20 mL) was 2-methoxycarbonylamino-3,3-dimethyl-butyric acid (317 mg, 1.673 mmol), DIEA (0.97 mL, 5.575 mmol) and the coupling reagent HOBt (256 mg, 1.673 nunol) and HBTU (634 g, 1.673 mmol). The solution was stirred at rt. overnight. Then it was concentrated, washed with water and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over MgSO4 and concentrated to give yellowish oil. It was then purified by Prep. HPLC column to give a yellowish oil as product. (410 mg, 47% yield).1H NMR (400 MHz, CD3OD) δ1.03 (s, 9H), 1.22 (t, J=7.09 Hz, 3H), 1.41 (dd, J=9.41, 5.26 Hz, 1H), 1.71 (dd, J=8.19, 5.26 Hz, 1H), 2.17 (m, 1H), 2.50 (m, 1H), 2.77 (m, 1H), 3.33 (s, 3H), 4.03 (s, 3H), 4.04–4.14 (m, 3H), 4.18 (s, 1H), 4.61–4.69 (m, 2H), 4.86 (m, 1H), 5.08 (dd, J=10.27, 1.71 Hz, 1H), 5.25 (d, J=17.11 Hz, 1H), 5.72–5.82 (m, 2H), 7.39 (dd, J=9.29, 2.20 Hz, 1H), 7.51 (m, 1H), 7.63 (m, 1H), 7.69–7.77 (m, 3H), 8.06 (m, 2H), 8.35 (d, J=9.29 Hz, 1H), 8.75 (s, 1H). LC-MS (retention time: 2.857 min.), MS m/z 673 (MH+).

reactant | 1-{[4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester | 1.115 mmol, 600 mg | C(C)OC(=O)C1(C(C1)C=C)NC(=O)C1NCC(C1)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C29H31N3O5
reactant | 2-methoxycarbonylamino-3,3-dimethyl-butyric acid | 1.673 mmol, 317 mg | COC(=O)NC(C(=O)O)C(C)(C)C | C8H15NO4
reactant | DIEA | 5.575 mmol, 0.97 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 256 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 1.673 mmol, 634 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 1-{[1-(2-Methoxycarbonylamino-3,3-dimethyl-butyryl)-4-(7-methoxy-2-phenyl-quinolin-4-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester | 47% yield | C(C)OC(=O)C1(C(C1)C=C)NC(=O)C1N(CC(C1)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)C(C(C(C)(C)C)NC(=O)OC)=O | C37H44N4O8
